US03970704
A mixture of 1.9 of 7-ethoxy-3,7-dimethyloctan-1-ol and 10 ml. of pyridine is added to a suspension of 8.0 g. of chromium trioxide in 100 ml. of pyridine with stirring under nitrogen. After about 4 hours at room temperature, the reaction is poured into saturated sodium bicarbonate and worked up with ether followed by washing with 2N NaOH, water, 10% HCl, water and brine and evaporated under reduced pressure to dryness and then filtered with hexane to yield 7-ethoxy-3,7-dimethyloctan-1-al.

reactant | 7-ethoxy-3,7-dimethyloctan-1-ol | C(C)OC(CCCC(CCO)C)(C)C | C12H26O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
solvent | ether | CCOCC | C4H10O
product | 7-ethoxy-3,7-dimethyloctan-1-al | C(C)OC(CCCC(CC=O)C)(C)C | C12H24O2
